US06248766B1
[[2-(4,4-Diphenylbutyl)thio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl]oxy]acetic Acid
Using ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate and 4,4-diphenylbutyl iodide, the procedure of Example 1 was otherwise repeated to synthesize the title compound. Yield 43%.

reactant | ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate | C(C)OC(COC1=C2CCC3=C(N=C(S3)S)C2=CC=C1)=O | C15H15NO3S2
reactant | 4,4-diphenylbutyl iodide | C1(=CC=CC=C1)C(CCCI)C1=CC=CC=C1 | C16H17I
product | [[2-(4,4-Diphenylbutyl)thio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl]oxy]acetic Acid | Yield 43% | C1(=CC=CC=C1)C(CCCSC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)O)C2=CC=CC=C2 | C29H27NO3S2
